US04814332
3.73 g of 1-bromo-3,3-dimethyl-2-butanone are added to a solution of 4.6 g of 1-(benzylideneamino)-2-(p-methoxyphenyl)imidazole in 250 ml of absolute acetonitrile. After stirring at 60° for 24 hours, the solution is evaporated and the residue is crystallized from ethanol/ether. There is obtained 1-(benzylideneamino)-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide of melting point 244°.

reactant | 1-bromo-3,3-dimethyl-2-butanone | 3.73 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | 1-(benzylideneamino)-2-(p-methoxyphenyl)imidazole | 4.6 g | C(C1=CC=CC=C1)=NN1C(=NC=C1)C1=CC=C(C=C1)OC | C17H15N3O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-(benzylideneamino)-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide | [Br-].C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)CC(C(C)(C)C)=O)C1=CC=C(C=C1)OC | InChI=1S/C23H26N3O2.BrH/c1-23(2,3)21(27)17-25-14-15-26(24-16-18-8-6-5-7-9-18)22(25)19-10-12-20(28-4)13-11-19;/h5-16H,17H2,1-4H3;1H/q+1;/p-1
